US04561882
Preparation of Methyl 4-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-acetoxypentanoate
5 g of methyl 4-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-hydroxypentanoate were dissolved in 35 ml of methylene chloride at 0° C. 0.9 ml of acetyl chloride and then 0.94 ml of triethylamine were added dropwise under nitrogen. After 18.5 hours of standing at room temperature and three hours of reflux, an additional 0.9 ml of acetyl chloride and 0.94 ml of triethylamine were added. The mixture was washed with water dilute acid and brine. The product was purified using silica gel chromatography and identified as the above methyl-3-acetoxy ester.

reactant | methyl 4-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-hydroxypentanoate | 5 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(CC(=O)OC)O)C)C=C1)(F)F | C18H18F3NO5
reactant | acetyl chloride | 0.9 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.94 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.9 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-acetoxypentanoate | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(CC(=O)OC)OC(C)=O)C)C=C1)(F)F | C20H20F3NO6
